US05986121
To 50 ml of tetrahydrofuran (TBF) solution containing 6 ml of ethynylbenzene, 33 ml of 1.6N normal-butyl lithium was added dropwise under a nitrogen gas flow at 0° C. After stirring for 1 hour, 33.3 ml of THF solution containing 3ml of dimethylsilyl chloride was added. After stirring at the room temperature for one night, the deposited solid was filtered and thereafter the obtained reaction solution was concentrated. Water was added to the solution, and then the solution was extracted with diethyl ether. Furthermore, the said diethyl ether layer was washed with water, thereafter dried with magnesium sulfate and concentrated. Then it was recrystallized from hexane, to obtain 5.02 g of bisphenylethynyldimethylsilane.

reactant | ethynylbenzene | 6 ml | C(#C)C1=CC=CC=C1 | C8H6
reactant | normal-butyl lithium | 1.6N, 33 ml | C(CCC)[Li]
reactant | dimethylsilyl chloride | 3ml | C[SiH](C)Cl | C2H7ClSi
solvent | THF | 33.3 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | bisphenylethynyldimethylsilane | 5.02 g | C1(=CC=CC=C1)C#C[Si](C)(C)C#CC1=CC=CC=C1 | C18H16Si
